US07790732B2
c) 5,8-Dichloro-4-methyl-3,4-dihydro-1H-quinazoline-2-thione
At a temperature of 65° C., sodium borohydride (0.13 g, 3.4 mmol) was added to a solution of 1-(2-amino-3,6-dichloro-phenyl)-ethanone (1.16 g, 5.7 mmol) in ethanol (12 ml), and the mixture was heated overnight (65° C.). Water (14.4 ml), KSCN (0.61 g, 6.3 mmol) and concentrated aqueous hydrogen chloride solution (3.6 ml) were then added subsequently, and the mixture was again heated (3 h, 65° C.). The majority of the title compound precipitated upon cooling and could be isolated in pure form by filtration and washing with water and ethanol to yield a light yellow solid (0.96 g, 69%).

reactant | sodium borohydride | 3.4 mmol, 0.13 g | [BH4-].[Na+]
reactant | 1-(2-amino-3,6-dichloro-phenyl)-ethanone | 5.7 mmol, 1.16 g | NC1=C(C(=CC=C1Cl)Cl)C(C)=O | C8H7Cl2NO
reactant | KSCN | 6.3 mmol, 0.61 g | C(#N)[S-].[K+]
reactant | hydrogen chloride | 3.6 ml | Cl | ClH
solvent | ethanol | 12 ml | C(C)O | C2H6O
solvent | Water | 14.4 ml | O | H2O
product | 5,8-Dichloro-4-methyl-3,4-dihydro-1H-quinazoline-2-thione | 0.96 g, 69% | ClC1=C2C(NC(NC2=C(C=C1)Cl)=S)C | C9H8Cl2N2S
